US08058283B2
A mixture of 5-(2-chloro-phenylethynyl)-2-methylsulfanyl-pyrimidine-4-carboxylic acid methyl ester (5.0 g, 9.4 mmol) (prepared in a manner similar to that described above), 50% (v/v) trifluoroacetic acid in dichloromethane (15 ml) and water (1 ml) was stirred in a heavy-walled Smith process vial and irradiated to 120° C. for 45 min. The mixture was evaporated in vacuo to dryness and the residual oil was purified by flash column chromatography over silica using a 3:7 mixture of hexane and dichloromethane as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 6-(2-chlorophenyl)-2-methylsulfanylpyrano[3,4-d]pyrimidin-8-one (3.15 g) as a pale yellow oil. 250 MHz 1H-nmr (CDCl3) δ (ppm): 2.65 (s, 3H) (—SCH3), 6.95 (s, 1H) (═CHAr), 7.25-7.4 (m, 3H) (ArH), 7.65 (m, 1H) (ArH), 8.85 (s, 1H) (ArH); m/z (M+H)+. 305, HPLC purity 100%, HPLC retention time 3.66 min.

reactant | 5-(2-chloro-phenylethynyl)-2-methylsulfanyl-pyrimidine-4-carboxylic acid methyl ester | 9.4 mmol, 5.0 g | COC(=O)C1=NC(=NC=C1C#CC1=C(C=CC=C1)Cl)SC | C15H11ClN2O2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 1 ml | O | H2O
product | 6-(2-chlorophenyl)-2-methylsulfanylpyrano[3,4-d]pyrimidin-8-one | 3.15 g | ClC1=C(C=CC=C1)C1=CC2=C(N=C(N=C2)SC)C(O1)=O | C14H9ClN2O2S
